US07612067B2
H. 8-(1-Ethyl-propyl)-3-(2,4-dimethyl-5-thiazolyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
To a microwave pressure tube is added 0.340 g (1.30 mmol) of 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine-3-yl boronic acid, 0.100 g (0.521 mmol) of 5-bromo-2,4-dimethylthiazole, 0.361 g (0.313 mmol) of Pd(PPh3)4, 0.650 mL (1.30 mmol) of 2 M aqueous Na2CO3, and 2 mL 7:3:2 DME:H2O:EtOH, and the mixture is heated at 160° C. for 40 min. Reaction is checked by MS which indicates product present. The reaction mixture is partitioned between 75 mL of ethyl acetate and 75 mL of water. The layers are separated and the aqueous is extracted 3×50 mL of ethyl acetate, dried (MgSO4), and concentrated under vacuum. The crude mixture is purified by chromatography using hexanes/ethyl acetate as a solvent system. The product containing fractions are combined to obtain 0.100 g of the product, 58% yield. MS, ES+=329.2 (M+1); 1H-NMR (DMSO-d6)=6.974 (s, 1H); 3.085-3.052 (m, 1H); 2.665 (s, 3H); 2.438 (s, 3H); 2.290 (s, 3H); 2.147 (s, 3H); 1.849-1.727 (m, 4H); 0.776-0.738 (m, 6H) ppm.

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine-3-yl boronic acid | 1.30 mmol, 0.340 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)B(O)O | C13H20BN3O2
reactant | 5-bromo-2,4-dimethylthiazole | 0.521 mmol, 0.100 g | BrC1=C(N=C(S1)C)C | C5H6BrNS
reactant | Na2CO3 | 1.30 mmol, 2 M, 0.650 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.313 mmol, 0.361 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
product | 8-(1-Ethyl-propyl)-3-(2,4-dimethyl-5-thiazolyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.100 g, 58% yield | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)C)C | C18H24N4S
